US06818203B2
a) (Adamant-1-yl)-3-oxa-propionic acid-t-butylester
29.26 g (150 mmol) of bromoacetic acid-tert-butyl ester is added at 0° C. to 15.22 g (100 mmol) of 1-adamantanol in 300 ml of 50% aqueous potassium hydroxide solution, 200 ml of toluene, and it is vigorously and thoroughly stirred for 2 hours. It is poured onto 1500 ml of water and extracted 2 times with 300 ml of diethyl ether. The combined organic phases are dried on magnesium sulfate and evaporated to the dry state in a vacuum. The residue is chromatographed on silica gel (mobile solvent: n-hexane/diethyl ether 20:1).

reactant | bromoacetic acid-tert-butyl ester | 150 mmol, 29.26 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | 1-adamantanol | 100 mmol | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | water | 1500 ml | O | H2O
solvent | potassium hydroxide | 300 ml | [OH-].[K+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | (Adamant-1-yl)-3-oxa-propionic acid-t-butylester | C(C)(C)(C)OC(C(O)C12CC3CC(CC(C1)C3)C2)=O | C16H26O3
